US06407111B1
2-Benzyl-N-(3,5-bis-trifluoromethyl-benzyl)-benzamide
To a solution of 255 mg (1.2 mmol) 2-benzylbenzoic acid in 1.5 ml tetrahydrofuran at 0° C. were added 195 mg (1.2 mmol) 1,1′-carbonyldiimidazole. After stirring for 2.5 h at room temperature, a solution of 243 mg (1.0 mmol) 3,5 bis(trifluoromethyl)benzylamine in 0.5 ml tetrahydrofuran was added and stirring was continued overnight. The solvent was removed in vacuo and the residue was purified by flash chromatography to give 210 mg (49%) of the title compound as white crystals.

reactant | 2-benzylbenzoic acid | 1.2 mmol, 255 mg | C(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O2
reactant | 1,1′-carbonyldiimidazole | 1.2 mmol, 195 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,5 bis(trifluoromethyl)benzylamine | 1.0 mmol, 243 mg | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 2-Benzyl-N-(3,5-bis-trifluoromethyl-benzyl)-benzamide | 210 mg, 49% | C(C1=CC=CC=C1)C1=C(C(=O)NCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=CC=C1 | C23H17F6NO
